US03966773
Preparation of 3-methoxy-1-octyne
To an ice-cooled solution of 63 g. of 1-octyn-3-ol in 300 ml. of dimethoxyethane is added under an inert atmosphere 312 ml. of 1.6 M n-butyllithium in hexane dropwise over 1 hour. To the mixture is then added 145 g. of methyl iodide and the resulting mixture is stirred at ambient temperatures for 24 hours and then heated to 60°C. for 1 hour. The mixture is cooled and poured into cold dilute hydrochloric acid. The organic phase is separated, washed with water and saturated brine, dried (Na2SO4), and evaporated to an oil, dried (Na2SO4), and evaporated to an oil. Fractional distillation of the oil in vacuo yields the product as a colorless oil.

reactant | 1-octyn-3-ol | C#CC(CCCCC)O | C8H14O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | methyl iodide | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 3-methoxy-1-octyne | COC(C#C)CCCCC | C9H16O
